US08217029B2
131.i) Trifluoro-methanesulfonic acid 6-methoxy-2-methyl-quinolin-4-yl ester
To an ice-chilled solution 6-methoxy-2-methyl-quinolin-4-ol (commercial, 1.7 g, 9 mmol) in DCM/DMF 2:1 (30 mL) and TEA (2.1 mL) was added portionwise phenyl bis (trifluoromethanesulfonimide) (6.4 g, 18 mmol). The suspension was stirred at 40° C. overnight. DCM was evaporated under reduced pressure and the residue was partitioned between sat. NaHCO3 and EA. The phases were separated and the aq phase was extracted twice with EA. The combined org. extracts were washed with water and brine, dried over MgSO4 and concentrated under reduced pressure. The residue was purified by CC (EA/Hept 1:1) to afford the title intermediate as yellow oil (1.2 g, 42%).

reactant | 6-methoxy-2-methyl-quinolin-4-ol | 9 mmol, 1.7 g | COC=1C=C2C(=CC(=NC2=CC1)C)O | C11H11NO2
reactant | trifluoromethanesulfonimide | [N-](S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F
solvent | DCM DMF | 30 mL | C(Cl)Cl.CN(C)C=O
product | Trifluoro-methanesulfonic acid 6-methoxy-2-methyl-quinolin-4-yl ester | 1.2 g, 42% | COC=1C=C2C(=CC(=NC2=CC1)C)OS(=O)(=O)C(F)(F)F | C12H10F3NO4S
